US08975254B2
a) Ethyl 3-(morpholinomethyl)-1H-pyrazole-5-carboxylate
The title compound was prepared from 1-morpholinopropan-2-one (4.192 g, 29.3 mmol), Sodium (0.43 g, 29.3 mmol), diethyl oxalate (4.28 g, 29.3 mmol) and hydrazine hydrochloride (2 g, 29.3 mmol) using the method of Example 225(a). Yield 18%. 1H NMR (400 MHz; CDCl3): δ 1.39 (t, 3H), 2.48 (m, 4H), 3.60 (d, 2H), 3.71 (m, 4H), 4.38 (q, 2H), 6.74 (s, 1H).

reactant | 1-morpholinopropan-2-one | 29.3 mmol, 4.192 g | O1CCN(CC1)CC(C)=O | C7H13NO2
reactant | Sodium | 29.3 mmol, 0.43 g | [Na] | Na
reactant | diethyl oxalate | 29.3 mmol, 4.28 g | C(C(=O)OCC)(=O)OCC | C6H10O4
reactant | hydrazine hydrochloride | 29.3 mmol, 2 g | Cl.NN
product | Ethyl 3-(morpholinomethyl)-1H-pyrazole-5-carboxylate | Yield 18% | O1CCN(CC1)CC1=NNC(=C1)C(=O)OCC | C11H17N3O3
